US08084559B2
There was washed 3.00 g (22.45 mmol) of potassium hydride having a purity of 30% by weight with each 6 mL of hexane three times in an atmosphere of nitrogen, and 32 mL of tetrahydrofuran (referred to as “THF” hereinafter) was added thereto. To the obtained THF slurry of potassium hydride, 5.00 g (17.96 mml) of 2,7-di-tert-butylfluorene was added dropwise at 0° C. using 32 mL of a THF solution thereof. The obtained mixture was stirred for 2.5 hours at a room temperature, and then 5.33 g (17.96 mmol) of (2-allyloxy-3-tert-butyl-5-methylphenyl)chlorodimethylsilane was added dropwise at −78° C. using 6 mL of a toluene solution thereof. The temperature of the obtained liquid reaction mixture was raised up to a room temperature, and the mixture was stirred for 2.5 hours. The mixture was added dropwise at 0° C. to a mixture of 32 mL of a 10% aqueous solution of sodium hydrogen carbonate and 32 mL of a 10% aqueous solution of sodium carbonate, and the resultant mixture was extracted with 20 mL of toluene. The obtained extract was dried over sodium sulfate, and the solvent contained therein was distilled away under a reduced pressure, thereby obtaining quantitatively (2-allyloxy-3-tert-butyl-5-methylphenyl)(2,7-di-tert-butylfluoren-9-yl)dimethylsilane.

reactant | potassium hydride | 22.45 mmol, 3.00 g | [H-].[K+]
reactant | 2,7-di-tert-butylfluorene | 5.00 g | C(C)(C)(C)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(C)(C)C | C21H26
reactant | (2-allyloxy-3-tert-butyl-5-methylphenyl)chlorodimethylsilane | 17.96 mmol, 5.33 g | C(C=C)OC1=C(C=C(C=C1C(C)(C)C)C)[Si](C)(C)Cl | C16H25ClOSi
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hexane | 6 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 32 mL | O1CCCC1 | C4H8O
solvent | THF | 32 mL | O1CCCC1 | C4H8O
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | (2-allyloxy-3-tert-butyl-5-methylphenyl)(2,7-di-tert-butylfluoren-9-yl)dimethylsilane | C(C=C)OC1=C(C=C(C=C1C(C)(C)C)C)[Si](C)(C)C1C2=CC(=CC=C2C=2C=CC(=CC12)C(C)(C)C)C(C)(C)C | C37H50OSi
